US04886733
In a 1000 ml 3-neck flask equipped with magnetic stirrer and reflux condenser with nitrogen inlet, 400 ml of carbon tetrachloride was added followed by 26 gms of 4 oxo-1,2,3,4-tetrahydrophenanthrene and 26.5 gm of N-bromo succinimide. The reaction was illuminated with a 600 watt Quartzlite lamp for 6 hours. Then an additional 2.0 gms of N-bromosuccinimide was added and the reaction refluxed for 1 hour. The reaction was cooled to room temperature and the solids filtered off and washed with carbon tetrachloride and air dried. The solids were recrystallized from 220 ml of ethyl acetate, filtered and washed with several portions of warm water, dried in vacuo in the presence of P2O5 to yield 8.3 gms (32.25% by weight) of 4-phenanthrol. m.p. 114°-116° C. m/e 194.

reactant | oxo-1,2,3,4-tetrahydrophenanthrene | O=C1CCCC=2C3=CC=CC=C3C=CC12 | C14H12O
reactant | N-bromo succinimide | 26.5 gm | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N-bromosuccinimide | 2.0 gms | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 400 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-phenanthrol | 8.3 gms | C1=CC=C(C=2C3=CC=CC=C3C=CC12)O | C14H10O
